US07435815B2
N-Ethyl-2-[(5-isopropyl-pyridine-2-sulfonyl)-(6-methoxy-pyridin-3-yl)-amino]-N-(6-methyl-pyridin-2-ylmethyl)-acetamide
prepared by reaction of [(5-isopropyl-pyridine-2-sulfonyl)-(6-methoxy-pyridin-3-yl)-amino]-acetic acid with ethyl-(6-methyl-pyridin-2-ylmethyl)-amine

reactant | [(5-isopropyl-pyridine-2-sulfonyl)-(6-methoxy-pyridin-3-yl)-amino]-acetic acid | C(C)(C)C=1C=CC(=NC1)S(=O)(=O)N(C=1C=NC(=CC1)OC)CC(=O)O | C16H19N3O5S
reactant | ethyl-(6-methyl-pyridin-2-ylmethyl)-amine | C(C)NCC1=NC(=CC=C1)C | C9H14N2
product | N-Ethyl-2-[(5-isopropyl-pyridine-2-sulfonyl)-(6-methoxy-pyridin-3-yl)-amino]-N-(6-methyl-pyridin-2-ylmethyl)-acetamide | C(C)N(C(CN(C=1C=NC(=CC1)OC)S(=O)(=O)C1=NC=C(C=C1)C(C)C)=O)CC1=NC(=CC=C1)C | C25H31N5O4S
